US08871753B2
Step A. 3,5-Dinitrobromobenzene
m-Dinitrobenzene (5.0 g, 0.030 mol) was stirred in sulfuric acid (50 mL) and heated to 85° C. N-Bromosuccinimide (5.0 g, 0.030 mol) was added in portions over 1.5 hours while maintaining a temperature of 85° C. The cooled mixture was poured into ice water and the precipitate was collected, washed with water and recrystallized from methanol to give the desired compound (5.9 g, 80%). LCMS for C6H4BrN2O4 (M+H)+: m/z=248.1.

reactant | m-Dinitrobenzene | 0.030 mol, 5.0 g | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | N-Bromosuccinimide | 0.030 mol, 5.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | 3,5-Dinitrobromobenzene | 5.9 g, 80% | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])Br | C6H3BrN2O4
